US09035059B2
Sodium hydrogen carbonate (6.30 g, 75.0 mmol) and water (75 mL) were added to a solution of 2-amino-6-nitrophenol obtained (5.77 g, 37.5 mmol) in ethyl acetate (75 mL) while cooling in ice, and chloroacetic acid chloride (3.58 mL, 45.0 mmol) was added dropwise thereto. After stirring at room temperature for 1.5 hr, the reaction mixture was cooled in ice, saturated aqueous ammonium chloride solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→1:1) to afford 2-chloro-N-(2-hydroxy-3-nitrophenyl)acetamide as a pale yellow powder (5.70 g).

reactant | Sodium hydrogen carbonate | 75.0 mmol, 6.30 g | C(O)([O-])=O.[Na+]
reactant | 2-amino-6-nitrophenol | NC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | chloroacetic acid chloride | 45.0 mmol, 3.58 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 75 mL | O | H2O
product | 2-chloro-N-(2-hydroxy-3-nitrophenyl)acetamide | 5.70 g | ClCC(=O)NC1=C(C(=CC=C1)[N+](=O)[O-])O | C8H7ClN2O4
